US03943154
EXAMPLE 17: 3-[(4-dodecylbenzenesulfonamido)benzenesulfonyl]acrylonitrile
6.9 grams (0.02 mol) of 4-dodecylbenzenesulfonyl chloride dissolved in 100 ml acetate are added, at room temperature, to a stirred solution of 3-(4-aminobenzenesulfonyl)acrylonitrile (4.2 g, 0.02 mol) and 3ml (0.02 mol) of triethylamine in 150 ml acetone. The mixture is permitted to stand overnight. 3-[(4-dodecylbenzenesulfonamido)benzenesulfonyl]acrylonitrile is recovered as a soft, fine yellow powder: ##SPC17##

reactant | 4-dodecylbenzenesulfonyl chloride | 0.02 mol, 6.9 grams | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H29ClO2S
reactant | 3-(4-aminobenzenesulfonyl)acrylonitrile | 0.02 mol, 4.2 g | NC1=CC=C(C=C1)S(=O)(=O)C=CC#N | C9H8N2O2S
reactant | triethylamine | 0.02 mol, 3ml | C(C)N(CC)CC | C6H15N
solvent | acetate | 100 ml | C(C)(=O)[O-]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-[(4-dodecylbenzenesulfonamido)benzenesulfonyl]acrylonitrile | C(CCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)C=CC#N | C27H36N2O4S2
